US09126993B2
1-(1-azabicyclo[2.2.2]oct-3-yl)-3-[2-(3-bromophenyl)propan-2-yl]urea
Using general procedure C, quinuclidin-3-amine (100 mg, 0.792 mmol), CDI (128 mg, 0.789 mmol) and 2-(3-bromophenyl)propan-2-amine (170 mg, 0.791 mmol) gave the title compound as a white solid (166 mg, 75%). 1H NMR (400 MHz, CDCl3) δ 7.50 (s, 1H), 7.30 (t, J=7.2 Hz, 2H), 7.15 (t, J=7.9 Hz, 1H), 5.54 (d, J=22.7 Hz, 1H), 5.16 (d, J=29.7 Hz, 1H), 3.60 (s, 1H), 3.14 (ddd, J=13.3, 9.4, 1.6 Hz, 1H), 2.61 (d, J=52.6 Hz, 4H), 2.18 (dd, J=14.1, 2.8 Hz, 1H), 1.66 (d, J=3.0 Hz, 2H), 1.51 (d, J=7.6 Hz, 6H), 1.28 (s, 3H) ppm. 13C NMR (100 MHz, CDCl3) δ 157.1, 150.4, 130.3, 130.0, 128.6, 124.0, 123.0, 57.0, 54.6, 47.6, 47.2, 46.8, 30.5, 30.3, 26.3, 26.2, 20.2 ppm. Purity: 100% UPLCMS (210 nm); retention time 0.66 min; (M+1) 367.8.

reactant | quinuclidin-3-amine | 0.792 mmol, 100 mg | N12CC(C(CC1)CC2)N | C7H14N2
reactant | CDI | 0.789 mmol, 128 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 2-(3-bromophenyl)propan-2-amine | 0.791 mmol, 170 mg | BrC=1C=C(C=CC1)C(C)(C)N | C9H12BrN
product | 1-(1-azabicyclo[2.2.2]oct-3-yl)-3-[2-(3-bromophenyl)propan-2-yl]urea | 166 mg, 75% | N12CC(C(CC1)CC2)NC(=O)NC(C)(C)C2=CC(=CC=C2)Br | C17H24BrN3O
